Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Acetaminophen / Levofloxacin / Oxycodone / Latex / 
Motrin
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F PMHx interstitial lung disease thought to be ___ 
sarcoidosis, COPD/asthma who presents with SOB x 2d. Patient 
reports that for the last 2d prior to admission, she has had 
gradual worsening symptoms of SOB and nonproductive cough. SOB 
is present at both rest and exertion, and is not associated with 
any fevers, chills, chest pain, palpitations, nausea, 
diaphoresis. As a result, she has been using her home O2 
continuously for the last 2 days (normally just uses it for 
sleep and with significant exertion). She reports these symptoms 
are very similar to prior COPD exacerbation ___. As symptoms 
continued to worsen, she presented to ___ for further 
evaluation.  
.  
In ___ ED, intial VS were 96.6 107 131/86 16 93% (uncertain 
how much O2 she was on). Exam was notable for diffuse expiratory 
wheezes. Portable CXR showed baseline diffuse interstitial lung 
process a question of a LUL consolidation; repeat PA and lateral 
did not show any e/o consolidation. EKG showed sinus rhythm at 
93bpm unchanged from prior. Labs were notable for WBC 7.7 (10.6 
eos), Cr 0.8, d-dimer 355. Patient was given duonebs but 
remained at 89% on 3LNC. She was given azithromycin 750mg PO, 
methylprednisolone 125mg and was admitted to medicine for 
further management. Vitals prior to transfer were 144/78 85 98.1 
18 99%. Access was PIV 18g x1.  
.  
On the floor reports feeling a little bit better but still SOB.  

.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied Denied chest pain, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  
 
Past Medical History:
Left Breast Cancer s/p resection, chemo/XRT 
Hyperlipidemia  
Tobacco abuse  
Asthma  
Allergic rhinitis
 
Social History:
___
Family History:
Brother and sister with Sarcoidosis. 
 
Physical Exam:
Vitals: 98.7 149/84 101 24 100 3L  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: reduced air movement w/ diffuse wheezing  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
___ 01:00PM   GLUCOSE-101* UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-30 ANION GAP-11
___ 01:00PM   estGFR-Using this
___ 01:00PM   CALCIUM-8.7 PHOSPHATE-3.0 MAGNESIUM-2.1
___ 01:00PM   WBC-7.7 RBC-4.61 HGB-13.7 HCT-41.4 MCV-90 
MCH-29.8 MCHC-33.2 RDW-14.6
___ 01:00PM   WBC-7.7 RBC-4.61 HGB-13.7 HCT-41.4 MCV-90 
MCH-29.8 MCHC-33.2 RDW-14.6
___ 01:00PM   NEUTS-52.2 ___ MONOS-7.1 EOS-10.6* 
BASOS-0.9
___ 01:00PM   PLT COUNT-258

___ CXR PA  & LAT
Final Report
FINDINGS:  Again seen is diffuse interstitial abnormality with 
predominance in
the upper lobes consistent with patient's known history of 
sarcoidosis.  The
previously seen opacity at the left base is no longer present 
and was likely
due to artifact.  There is no definite focal consolidation, 
pleural effusion
or pneumothorax.  Cardiomediastinal silhouette is unchanged.  
Bony structures
are intact.
 
IMPRESSION:  Diffuse interstitial lung disease with an upper 
lobe predominance
consistent with patient's known history of sarcoidosis without 
definite
worsening.  No focal opacity.
 
Brief Hospital Course:
This is a ___ year old woman with a history of  interstitial lung 
disease thought ___ sarcoidosis, COPD/asthma, active smoker ___ 
cigarettes/day) presenting with shortness of breath most likely 
due to her uncontrolled asthma.

#asthma/COPD exacerbation- She initially presented with 
shortness of breath and a non-productive cough. Initially her O2 
sats were 89% on 3L NC. A CXR showed diffuse interstitial lung 
disease without evidence of worsening from prior imaging. She 
was found to have relative eosinophilia but no leukocytosis. She 
was treated with albuterol and ipratropium nebs, oral 
prednisone, and PO azithromycin for 5 days over the course of 
the hospitalization her O2 sats improved to 97-99% on RA and 
90-94% while ambulating. She was discharged on a prednisone 
taper and the last 2 days of her azithromycin course. She did 
not require oxygen on discharge, but was encouraged to use her 
home oxygen as needed. 

During the hospitalization, she was seen by the pulmonology team 
during who recommended DLCO evaluation as an outpatient, but who 
believed that her current symptoms were likely due to her poorly 
controlled asthma. Key triggers include continued smoking, 
environmental allergens, and 50 lb weight gain over the past few 
years. The patient is scheduled to follow up with an allergist. 
The patient is also scheduled to follow up with her 
pulmonologist Dr. ___. 

#GERD- The pulmonology team recommended treatment with 
omeprazole 20 mg QD to treat a possible GERD etiology for her 
cough.

#smoking- Encouraged smoking sensation and offered nicotine 
patches during hospitalization.
 
Medications on Admission:
- albuterol sulfate nebs prn  
- albuterol inhaler prn  
- fluticasone 50mcg spray BID  
- fluticasone-salmeterol 500 mcg-50 mcg BID  
- montelukast 10mg daily  
- tiotropium 18 mcg daily  
- nicotine 14 mg/24 hour Patch 24 hr daily  
 
Discharge Medications:
1. PredniSONE 20 mg po daily Duration: 1 Days 
RX *prednisone 10 mg As directed tablet(s) by mouth once a day 
Disp #*10 Tablet Refills:*0
2. PredniSONE 10 mg  po  daily Duration: 2 Days Start: After 20 
mg tapered dose. 
3. PredniSONE 5 mg po daily Duration: 2 Days Start: After 10 mg  
tapered dose. 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN dyspnea, wheezing 
5. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 (One) capsule(s) by mouth three times a 
day Disp #*30 Tablet Refills:*2
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 (One) capsule(s) by mouth once a day Disp 
#*30 Tablet Refills:*2
9. Montelukast Sodium 10 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Apply one patch daily. Do not smoke 
while wearing patch. once a day Disp #*30 Each Refills:*0
12. Azithromycin 250 mg PO Q24H Duration: 4 Days 
RX *azithromycin 250 mg 1 (One) tablet(s) by mouth once a day 
Disp #*1 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uncontrolled asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your 
hospitalization. You came to ___ because of worsening 
shortness of breath and cough. We believe that these issues were 
likely due to an asthma exacerbation. You were treated with 
ipratropium and albuterol nebulizers, prednisone, and 
antibiotics. Your symptoms have improved after these treatments. 
Your ambulatory oxygenation was good at discharge. However, feel 
free to use your home oxygen in case you feel like you need it.

The following changes were made to your medications:
--START taking Singulair 10mg once a day at night-time
--START taking prednisone for the next 5 days through ___ take 
20mg for 1 day until ___, then 10mg for 2 days until ___, then 
5mg for 2 days until ___.
--START omeprazole 20mg every day
--START tessalon perles 100 mg as needed for cough up to 3 times 
a day.
--START Nicotine patch for smoking cessation.

Please continue all other medications as previously prescribed.
 
Followup Instructions:
___